US09163027B2
5,7-Diethyl-2-(methylsulfanyl)-[1,2,4]triazolo[1,5-a]pyrimidine
A mixture of 3,5-heptanedione (9.85 g, 76.8 mmol), 3-amino-5-methylthio-1H-1,2,4-triazole (10.0 g, 76.8 mmol), and glacial acetic acid (60 mL) was added to a 200 mL RBF with a magnetic stirring bar. The flask was fitted with a condenser, and warmed in an oil bath to a gentle reflux at 135° C. The mixture was heated for 24 hours. Progress of the reaction was monitored by analytical HPLC with UV detection at 215 and 254 nm. The starting material 3-amino-5-methylthio-1H-1,2,4-triazole eluted rapidly with retention time of 0.7 min, and the product eluted with retention time of 4.7 min. The mixture was cooled to room temperature, then slowly poured into stirring ice/water (800 mL) to precipitate product and stirred ˜20 minutes. Solids were isolated by filtration, rinsed with water (200 mL), and then dried under reduced pressure to afford the title compound as a powder (15.0 g, 88% yield).

reactant | 3,5-heptanedione | 76.8 mmol, 9.85 g | CCC(CC(CC)=O)=O | C7H12O2
reactant | 3-amino-5-methylthio-1H-1,2,4-triazole | 76.8 mmol, 10.0 g | NC1=NNC(=N1)SC | C3H6N4S
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
product | 5,7-Diethyl-2-(methylsulfanyl)-[1,2,4]triazolo[1,5-a]pyrimidine | 15.0 g, 88% yield | C(C)C1=NC=2N(C(=C1)CC)N=C(N2)SC | C10H14N4S
